US07202213B2
(E)-(S)-2-Ethoxy-3-[4-(5-phenyl-pent-2-en-4-ynyloxy)-phenyl]-propionic acid ethyl ester
(E)-5-Phenyl-pent-2-en-4-yn-1-ol (328 mg, 2.07 mmol), tributylphosphine (606 mg, 3.0 mmol) and (S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester (Tetrahedron Letters, Vol. 35, No. 19, 3139–3142, 1994) (495 mg, 2.07 mmol) were successively dissolved in dry benzene (30 mL) under a nitrogen atmosphere and the solution cooled to 0° C. Solid 1,1′-(azodicarbonyl) dipiperidine (756 mg, 3.0 mmol) was added, the mixture stirred for 10 min., then warmed to room temperature and stirred for 16 h. The reaction mixture was filtered and the filtrate concentrated in vacuo. The product was purified by flash column chromatography eluting with toluene graduated to toluene/ethyl acetate (19:1) to give 450 mg (57%) of the title compound.

reactant | (E)-5-Phenyl-pent-2-en-4-yn-1-ol | 2.07 mmol, 328 mg | C1(=CC=CC=C1)C#C/C=C/CO | C11H10O
reactant | tributylphosphine | 3.0 mmol, 606 mg | C(CCC)P(CCCC)CCCC | C12H27P
reactant | (S)-2-ethoxy-3-(4-hydroxy-phenyl)-propionic acid ethyl ester | C(C)OC([C@H](CC1=CC=C(C=C1)O)OCC)=O | C13H18O4
reactant | 1,1′-(azodicarbonyl) dipiperidine | 3.0 mmol, 756 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
product | (E)-(S)-2-Ethoxy-3-[4-(5-phenyl-pent-2-en-4-ynyloxy)-phenyl]-propionic acid ethyl ester | 450 mg, 57% | C(C)OC([C@H](CC1=CC=C(C=C1)OC\C=C\C#CC1=CC=CC=C1)OCC)=O | C24H26O4
